### PR TITLE
refactor(Real/CauSeq): use `FunLike` instead of `CoeFun`

### PR DESCRIPTION
**Pull request by urkud**
Co-authored-by: Gabriel Ebner <gebner@gebner.org>

---

Cherry-picked from #1219

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Real/CauSeq.lean [hunk 1]
```diff
@@ -699,22 +699,23 @@ protected theorem mul_pos {f g : CauSeq α abs} : Pos f → Pos g → Pos (f * g
...
+    suffices 0 ≤ f j from le_of_le_of_eq (hi j hj).1 (abs_of_nonneg this)
+    have : - K < f j - f i := (abs_lt.1 ((hi i .refl).2 j hj)).1
+    have := add_le_add (le_of_lt this) h
+    rwa [neg_add_self, sub_add_cancel] at this
+  case inr h =>
+    refine .inr ⟨K, K0, i, fun j hj => ?_⟩
+    suffices f j ≤ 0 from le_of_le_of_eq (hi j hj).1 (abs_of_nonpos this)
+    have : f j - f i < K := (abs_lt.1 ((hi i .refl).2 j hj)).2
+    have := add_le_add (le_of_lt this) (le_neg.2 h)
+    rwa [add_neg_self, sub_add_cancel] at this
```
Comment (eric-wieser) [inline Mathlib/Data/Real/CauSeq.lean:718]: Better or worse as
```suggestion
  cases le_abs.1 (hi i .refl).1 with
  | inl h =>
    refine .inl ⟨K, K0, i, fun j hj => ?_⟩
    suffices 0 ≤ f j from le_of_le_of_eq (hi j hj).1 (abs_of_nonneg this)
    have : - K < f j - f i := (abs_lt.1 ((hi i .refl).2 j hj)).1
    have := add_le_add (le_of_lt this) h
    rwa [neg_add_self, sub_add_cancel] at this
  | inr h =>
    refine .inr ⟨K, K0, i, fun j hj => ?_⟩
    suffices f j ≤ 0 from le_of_le_of_eq (hi j hj).1 (abs_of_nonpos this)
    have : f j - f i < K := (abs_lt.1 ((hi i .refl).2 j hj)).2
    have := add_le_add (le_of_lt this) (le_neg.2 h)
    rwa [add_neg_self, sub_add_cancel] at this
```

File: Mathlib/Data/Real/CauSeq.lean [hunk 2]
```diff
@@ -139,17 +139,17 @@ section Ring
 
 variable [Ring β] {abv : β → α}
 
-instance : CoeFun (CauSeq β abv) fun _ => ℕ → β :=
-  ⟨Subtype.val⟩
+instance : FunLike (CauSeq β abv) ℕ fun _ => β where
+  coe := Subtype.val
+  coe_injective' := Subtype.val_injective
```
Comment (eric-wieser) [inline Mathlib/Data/Real/CauSeq.lean:144]: I'm not convinced this is a good idea, as now we have two different spellings of `Subtype.val`. I think if you want to use `FunLike`, then probably `CauSeq` should be made a structure rather than a `Subtype`.
